US04431653
A mixture containing rac-4-[2-(4,5-dihydro-1H-imidazol-2-yl)ethyl]hexahydro-1H-azepine (1.95 g, 0.01 M), methanol (50 ml) and dimethylformamide dimethylacetal (36 ml) was heated at 90° C. for 8 hrs. The excess of dimethylformamide dimethylacetal was removed in vacuo to give 4-[2-(4,5-dihydro-1H-imidazol-2-yl)ethyl]hexahydro-1H-azepine-1-carboxaldehyde dimethylacetal to the mixture of 6-aminopenicillanic acid (1.95 g, 0.009 M) and diisopropylethylamine (1.52 ml) in dry chloroform (25 ml) was added the solution fo the above hexahydroazepine carboxaldehyde dimethylacetal in dry chloroform (10 ml) at 0° C. The reaction was stirred at 0° C. for 1 hr. and at room temperature for 3 hrs. After the reaction solvent was removed and the residue dissolved in water (30 ml). The aqueous solution, washed with ethylacetate was acidified to pH 3 with dil. HCl and purified on Sephadex LH 20 columns to give [2S-(2alpha,5alpha,6beta)]-6-[[[4-[2-(4,5-dihydro-1H-imidazol-2-yl)ethyl]hexahydro-1H-azepin-1-yl]methylene]amino]-3,3-dimethyl-7-oxo-4-thia-1-azabicyclo[3.2.0]heptane-2-carboxylic acid hydrochloride (1.03 g, 27% yield).

reactant | rac-4-[2-(4,5-dihydro-1H-imidazol-2-yl)ethyl]hexahydro-1H-azepine | 0.01 M, 1.95 g | N1C(=NCC1)CCC1CCNCCC1 | C11H21N3
reactant | dimethylformamide dimethylacetal | 36 ml | COC(N(C)C)OC | C5H13NO2
solvent | methanol | 50 ml | CO | CH4O
product | 4-[2-(4,5-dihydro-1H-imidazol-2-yl)ethyl]hexahydro-1H-azepine-1-carboxaldehyde dimethylacetal | COC(N1CCC(CCC1)CCC=1NCCN1)OC | C14H27N3O2
